US05236952
820 mg of 4-hydroxy-3-methoxy-5-nitrophenyl (3-quinolinyl) ketone are treated with 50 ml of 48 percent hydrobromic acid and held at the reflux temperature for 3 hours. After distillation of the hydrobromic acid at 50°, the residue is treated with 70 ml of hot water and the insoluble constituent is filtered under suction. There is obtained 3,4-dihydroxy-5-nitrophenyl (3-quinolinyl) ketone hydrobromide in the form of yellow crystals of m.p. 270° (dec.).

reactant | 4-hydroxy-3-methoxy-5-nitrophenyl (3-quinolinyl) ketone | 820 mg | N1=CC(=CC2=CC=CC=C12)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C17H12N2O5
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrophenyl (3-quinolinyl) ketone hydrobromide | Br.N1=CC(=CC2=CC=CC=C12)C(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | InChI=1S/C16H10N2O5.BrH/c19-14-7-10(6-13(16(14)21)18(22)23)15(20)11-5-9-3-1-2-4-12(9)17-8-11;/h1-8,19,21H;1H
